Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___ drain of right psoas abscess (___)
EGD with removal of pancreatic stent (___)

 
History of Present Illness:
Ms. ___ is a ___ F with a history of HTN and recent
gallstone pancreatitis (s/p ERCP at OSH on ___, with recovery
course c/b duodenal perforation, treated with bowel rest and
antibiotics), who presents as a transfer from ___ for
evaluation of recurrent abdominal pain, nausea, and fevers, with
evidence of multiple peripancreatic fluid collections on OSH CT. 


The patient initially presented to ___ on ___ for RUQ
abdominal pain and chest pain of at least 4 weeks duration 
(exact
time course not clear), and at that time was found to have a
biliary stone on MRI, and was diagnosed with gallstone
pancreatitis. She had an ERCP with biliary stent placement on
___, complicated by perforation of her duodenum. She was 
managed
non-surgically, and was treated with 5 days of bowel rest and a
course of antibiotics. She was discharged on ___, and sent home
with 10 more days of antibiotics (cefpodoxime and 
metronidazole),
which the patient states she took as prescribed. 

The patient states that her abdominal pain continued to worsen
while at home, and did not resolve with antibiotics. She noted
increasing frequency and severity of sharp epigastric and RUQ
abdominal pain, which intermittently radiates to her back. She
also endorses nausea, sweats, an episode of
lightheadedness/dizziness 5 days ago, and one episode of low
grade fever 3 days prior with associated chills (has not 
recurred
since). She has been able to tolerate some PO, but only liquid
foods (broth and yogurt), as solid foods exacerbate her pain. 
She
denies any vomiting or diarrhea. 

On ___, the patient had a scheduled appointment with Dr.
___ (genral surgery) as a post-hospitalization f/u,
and this provider referred the patient to get a CT scan, given
her continued pain and other concerning sxs. She was ultimately
referred to the ___ ED after CT showed multiple pancreatic
fluid collections, and from there was transferred to ___ for
tertiary care and further workup.  

In the ED:
Initial vital signs were notable for:
98.0, HR 82, BP, 121/77, RR 16. 99% RA 
VS remained stable throughput her stay in ED, Tmax 98.5, BP 
range
in 110s-120s/702-80s

Exam notable for: Patient mildly uncomfortable, with moderate
diffuse abdominal tenderness, greatest in RUQ, as well as LLQ 
and
RLQ. No rebound, guarding.

Labs were notable for:
Lactate 1.0 > 0.8  
ALT 27 > 94, AST 34 > 239, AlkPhos 252 > 647, TBili 0.3 > 1.3,
Alb 3.9 > 3.6
Amylase 43, Lipase 32
CBC: WBC 9.7 > 7.6, Hgb 13.0 > 12.1, Plt 375 > 355
BMP wnl (Na 139 > 141, K 4.4, Cl 96 > 100, Bicarb 25, BUN 8, Cr
0.6) 
UA unremarkable 

Studies performed include:
CT Abd/Pelvis w/ and w/o Contrast, from OSH: 
1. Multiple peripancreatic fluid collections about and within 
the
head and uncinate process, many which demonstrate rim
enhancement, as well as extending along the right psoas muscle
and retroperitoneum. Findings likely reflect fluid collections
related to known pancreatic ductal injury. Superimposed 
infection
of these peripancreatic fluid collections cannot be excluded on
the basis of this imaging exam.
2. Evidence of acute pancreatitis involving the head and 
uncinate
process. Pancreatic duct stent in place without evidence for 
main
duct dilatation.
3. Lobulated peripancreatic fluid collection with rim 
enhancement
along the superior aspect of the pancreatic tail abutting the
stomach as well as less organized heterogeneous fluid anterior,
inferior, and lateral to the pancreatic head suggest walled-off
necrosis and acute necrotic fluid collection, respectively.
4. Moderate right hydronephrosis with transition point in the
ureter noted at the level of the retroperitoneal fluid
collection.
5. Mild intrahepatic and extrahepatic biliary dilatation with
abrupt cutoff in the common bile duct at the level of the
pancreatic inflammation.
6. Duodenitis, likely related to the ongoing pancreatitis. No
gastric outlet obstruction.
7. Bilateral adrenal gland nodules are indeterminate and measure
up to 2.1 cm on the right. Recommend nonemergent adrenal CT for
further characterization.

Chest (PA & Lat) 
No evidence of pneumothorax or other acute thoracic process.

Patient was given:
- IV Morphine 4mg x1
- IV Tylenol ___ x1
- 2L LR 
- IV ciprofloxacin 400mg  
- IV Metronidazole 500mg 

Consults: GI (ERCP/biliary), ___, Surgery 

Upon arrival to the floor, patient was more comfortable, and
resting in her bed. She endorsed ___ abdominal pain, which is
worst after palpation, but otherwise has been relieved with the
morphine she received in the ED. Denied any epigastric pain, and
noted mostly RUQ, RLQ, and LLQ pain. Also endorsed back pain,
mostly right-sided, and mild nausea. Has been able to tolerate 
PO
fluid intake. Denies any vomiting, diarrhea, or recent
fevers/chills. She states that she has been urinating without
issue, and making a normal amount of urine; denies any dysuria,
hematuria, or difficulty with urination. 

REVIEW OF SYSTEMS:
Complete ROS obtained and is otherwise negative, except as 
stated
in HPI.
- HTN 
- Laparoscopic Cholecystectomy ___ years ago 
- Left open inguinal hernia repair ___ years ago
- Hysterectomy ___ years ago  
- C section x3
- ERCP at ___ on ___ 
 
Past Medical History:
- HTN 
- Laparoscopic Cholecystectomy ___ years ago 
- Left open inguinal hernia repair ___ years ago
- Hysterectomy ___ years ago  
- C section x3
- ERCP at ___ on ___ 
 
Social History:
___
Family History:
No family history of GI issues. 
Sister - DM
Sister - deceased, from stroke
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: ___ 1746 Temp: 98.0 PO BP: 129/82 R Lying HR: 89 
RR:
18 O2 sat: 96% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally, mildy decreased
bibasilar breath sounds. No wheezes, rhonchi or rales. No
increased work of breathing.
BACK: Mild spinous process tenderness throughout. R-sided CVA
tenderness > L-sided CVA tenderness. 
ABDOMEN: Normal bowels sounds, non distended, tender to deep
palpation in all four quadrants, most pronounced in RLQ and LLQ.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. No rash.
NEUROLOGIC: CN grossly intact. ___ strength throughout. Normal
sensation. AOx3.

DISCHARGE PHYSICAL EXAM
========================
Temp: 97.7 PO BP: 131/87 L Sitting HR: 109 RR: 14
O2 sat: 99% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: Sclera anicteric and without injection.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally, mildy decreased
bibasilar breath sounds. 
ABDOMEN: Normal bowels sounds, non distended, mildly tender in
epigastric region.
BACK: previous JP drain site c/d/i
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rash.
NEUROLOGIC: CN grossly intact. Normal sensation. AOx3.

 
Pertinent Results:
ADMISSION LABS
___ 09:22PM BLOOD WBC-9.7 RBC-4.31 Hgb-13.0 Hct-39.8 MCV-92 
MCH-30.2 MCHC-32.7 RDW-12.5 RDWSD-42.5 Plt ___
___ 09:22PM BLOOD Glucose-105* UreaN-8 Creat-0.6 Na-139 
K-4.4 Cl-96 HCO3-26 AnGap-17
___ 09:22PM BLOOD ALT-27 AST-34 AlkPhos-252* Amylase-53 
TotBili-0.3
___ 09:22PM BLOOD Lipase-37
___ 09:22PM BLOOD Albumin-3.9
___ 07:15AM BLOOD Albumin-3.5 Calcium-9.3 Phos-3.4 Mg-2.0
___ 07:15AM BLOOD Triglyc-99
___ 09:32PM BLOOD Lactate-1.0

DISCHARGE LABS
___ 08:10AM BLOOD WBC-7.1 RBC-3.96 Hgb-12.1 Hct-37.3 MCV-94 
MCH-30.6 MCHC-32.4 RDW-13.5 RDWSD-46.0 Plt ___
___ 08:10AM BLOOD Glucose-122* UreaN-14 Creat-0.6 Na-138 
K-4.8 Cl-97 HCO3-29 AnGap-12
___ 08:10AM BLOOD ALT-60* AST-46* LD(LDH)-173 AlkPhos-391* 
TotBili-0.2

MICRO
===============
___ 9:20 am ABSCESS
      RP FLUID COLLECTION- RIGHT PSOAS DRAIN #2. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      SERRATIA MARCESCENS.    RARE GROWTH. 
         Identification and susceptibility testing performed on 
culture # 
         ___ ___. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 

__________________________________________________________
___ 9:00 am ABSCESS      RP FLUID COLLECTION- RIGHT PSOAS 
MUSCLE. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___: 
      SERRATIA MARCESCENS.    RARE GROWTH. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 
         Piperacillin/Tazobactam test result performed by ___ 
___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             SERRATIA MARCESCENS
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----       S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 

__________________________________________________________
___ 7:15 am BLOOD CULTURE      X 1. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 9:40 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
__________________________________________________________
___ 9:25 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING
=============
CT A/P ___. Substantial interval improvement in numerous peripancreatic 
fluid
collections most consistent with acute necrotic collections or 
early
walled-off necrosis following placement of a pigtail drainage 
catheter with
minimal residual fluid in the pancreatic tail and trace fluid 
remaining
interposed between the pancreas and the psoas muscle.  
Persistent
peripancreatic stranding is similar to the prior study.
2. Unchanged mild-to-moderate right hydroureteronephrosis with 
an abrupt
cutoff in the region of the peripancreatic stranding.
3. Unchanged mild intrahepatic and extrahepatic biliary ductal 
dilatation with
an abrupt cut off of the CBD, likely also attributable to 
inflammatory
stranding.

 
Brief Hospital Course:
___ F with a history of gallstone pancreatitis and HTN, with a 
recent ERCP on ___ (with recovery course c/b duodenal 
perforation, treated with bowel rest and antibiotics), who 
presents as a transfer from ___ for evaluation of 
recurrent abdominal pain, nausea, and intermittent fevers, and 
evidence of
multiple peripancreatic fluid collections and R psoas abscess 
growing serratia s/p ___ drainage with resolution of abscess and 
antibiotics.

ACUTE ISSUES:
=============
# Pancreatitis with peripancreatic fluid collection w/ likely 
walled off necrosis
# R psoas fluid collection/abscess w/ hydronephrosis of R kidney
Pt w/ complicated recent hospital admission at ___ with 
ercp c/b duodenal perforation, pancreatic duct injury, treated 
with bowel rest and ABX. Has peripancreatic fluid collections 
c/w complicated pancreatitis likely as a result from previous 
hospital course. Large R psoas abscess was likely source of her 
pain which improved with ___ drainage on ___, in which 2 JP 
drains were placed and subsequently removed on ___. Psoas 
abscess grew pansensitive serratia. Infectious disease 
recommended 2 weeks of ciprofloxacin/flagyl from drain placement 
(___). Patient additionally had had EGD on ___, in which 
pancreatic duct stent was removed and also found the wall of 
duodenum to be erythematous and edematous. Patient had repeat CT 
scan on ___, which revealed improved ___ 
collections as well as resolution of previous right psoas 
abscess. Patient stable for discharge with follow up with PCP, 
___, and GI. 

# Acute Transanimitis 
Likely due to acute extrahepatic biliary stricture/obstruction 
secondary to pancreatic inflammation as seen on CT. LFTs 
downtrended through hospital course.

# Bilateral Adrenal Gland Nodules
Noted on CT Scan at OSH; will need f/u as outpatient 

# Hypertension 
Is on metoprolol at home, which was held given normotensive 
while in hospital. 

TRANSITIONAL ISSUES
[]cipro/flagyl to complete 14 day course (___)
[]has outpt f/u with Dr. ___ on ___ ___/P 
beforehand
[]Patient had repeat EGD on ___ with removal of pancreatic duct 
stent. Will need f/u with GI (Dr. ___, from ___
[]Should have repeat imaging of kidneys as outpatient to re-eval 
resolution of hydroureteronephrosis seen on R kidney. Can be 
done with dedicated adrenal CT as below
[]Started on omeprazole for duodenitis. Should continue for 8 
weeks
[]Bilateral adrenal gland nodules are indeterminate and measure 
up to 2.1 cm on the right. Recommend nonemergent adrenal CT for 
further characterization 
[]Please repeat LFTs as outpatient to ensure normalization. On 
discharge, AST: 60, ALT: 46, ALP: 391 
[]Have continued to hold metoprolol XL on discharge. Unknown 
indication, pt was normotensive throughout hospitalization. Can 
consider restarting metoprolol as outpatient if indicated.

New medications:
Ciprofloxacin 
Metronidazole
Omeprazole

>30 minutes spent on patient care and coordination on day of 
discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*14 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*21 Tablet Refills:*0 
4.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
5. HELD- Metoprolol Succinate XL 50 mg PO DAILY  This medication 
was held. Do not restart Metoprolol Succinate XL until told by 
your doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Pancreatitis
Right psoas abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you.

Why you were admitted?
- You were admitted because you had complications of 
pancreatitis including fluid collections in your abdomen. 

What we did for you?
- One fluid collection or abscess was large, and you had two 
drains placed with improvement in your pain, which were removed 
when the fluid collection was all drained.
- The abscess grew a bacteria called serratia. You were given 
antibiotics to treat this bacteria.
- You had an endoscopy to remove a stent in your pancreas.

What should you do when you leave the hospital?
- Please continue taking your antibiotics. Your last day of 
antibiotics is on ___ to complete a 14 day course. 
- Please attend your follow up appointments. 

We wish you the best,
Your ___ team
 
Followup Instructions:
___